US05142029
(1) Synthesis of 2-phenylsulfonyl-1,4-dihydroxynaphthalene
1,4-naphthoquinone (15.8 g) was dissolved in 100 ml of a mixture of ethyl acetate and acetic acid (9:1) and sodium benzenesulfinate (24.6 g) was added. The resulting mixture was stirred for 5 hours and the obtained crystals were filtered and washed with a small amount of acetone. (Yield: 22.5 g)

reactant | 1,4-naphthoquinone | 15.8 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | sodium benzenesulfinate | 24.6 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-phenylsulfonyl-1,4-dihydroxynaphthalene | C1(=CC=CC=C1)S(=O)(=O)C1=C(C2=CC=CC=C2C(=C1)O)O | C16H12O4S
